US06465507B2
2-Oxo-3-(4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrol-1-ylmethylene)-2,3-dihydro-1H-indole-5-sulfonic Acid Phenylamide
2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid phenylamide was condensed with 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde to give the title compound.

reactant | 2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid phenylamide | C1(=CC=CC=C1)NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C14H12N2O3S
reactant | 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde | O=C1OCCC=2C1=CNC2C=O | C8H7NO3
product | 2-Oxo-3-(4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrol-1-ylmethylene)-2,3-dihydro-1H-indole-5-sulfonic Acid Phenylamide | C1(=CC=CC=C1)NS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=CC1=C2C(=CN1)C(OCC2)=O | C22H17N3O5S
